US07994203B2
Step 2: 3-(2,4-Dichloro-phenyl)-7-(3-trifluoromethyl-pyrazol-1-yl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole:
1-(2,4-Dichloro-phenyl)-2-(5′-methyl-3-trifluoromethyl-2′H-[1,4′]bipyrazolyl-3′-yloxy)-propan-1-one (150 mg, 0.346 mmol) is dissolved in 1,2-dichloroethane (1.39 ml) and titanium tetrachloride (0.046 ml, 0.416 mmol) is added; the reaction mixture is stirred at 85° C. under N2 for 3 hours. The reaction mixture is allowed to cool to RT and quenched with sat. ammonium chloride then added to a further 50 ml solution of ammonium chloride. The crude product is extracted with EtOAc (2×50 ml). The combined organics are washed with water, brine, dried over MgSO4 and concentrated in vacuo. Purification of the crude product by ISCO combiflash chromatography, eluting with 0 to 100% (EtOAc/Iso-hexane) on a 24 g SiO2-column afford the title compound as a solid MS: m/z 415.25 [M+H]+; 1H NMR (400.13 MHz (CDCl3) δ 7.69 (1H, dd), 7.60 (1H, d), 7.54 (1H, d), 7.43 (1H, dd), 6.72 (1H, d), 2.37 (3H, s), 2.35 (3H, s).

reactant | 1-(2,4-Dichloro-phenyl)-2-(5′-methyl-3-trifluoromethyl-2′H-[1,4′]bipyrazolyl-3′-yloxy)-propan-1-one | 0.346 mmol, 150 mg | ClC1=C(C=CC(=C1)Cl)C(C(C)OC=1NN=C(C1N1N=C(C=C1)C(F)(F)F)C)=O | C17H13Cl2F3N4O2
solvent | 1,2-dichloroethane | 1.39 ml | ClCCCl | C2H4Cl2
catalyst | titanium tetrachloride | 0.416 mmol, 0.046 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 3-(2,4-Dichloro-phenyl)-7-(3-trifluoromethyl-pyrazol-1-yl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)N2N=C(C=C2)C(F)(F)F | C17H11Cl2F3N4O
